US04340740
p-Toluenethiol (5.00 g) was dissolved in 6 ml of methanol, and 1.60 ml of a 2.5 M methanol solution of sodium methoxide was added to the solution at room temperature in a stream of argon. The mixture was stirred under ice cooling. Then, 1.516 g of O-(p-toluenesulfonyl)-m-phenoxymandelonitrile was added, and the mixture was stirred for 30 minutes under ice cooling and then for 10 minutes at room temperature. Water (20 ml) was added, and the mixture was extracted with 30 ml of methylene chloride three times. The extract was washed with 20 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; benzene) to afford 1.334 g (yield 100%) of alpha-(p-tolylthio)(m-phenoxyphenyl)acetonitrile as a colorless oil.

reactant | p-Toluenethiol | 5.00 g | C1(=CC=C(C=C1)S)C | C7H8S
reactant | sodium methoxide | C[O-].[Na+]
reactant | O-(p-toluenesulfonyl)-m-phenoxymandelonitrile | 1.516 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1)C | C21H17NO4S
reactant | Water | 20 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
solvent | methanol | 2.5 M | CO | CH4O
product | alpha-(p-tolylthio)(m-phenoxyphenyl)acetonitrile | 1.334 g, yield 100% | C1(=CC=C(C=C1)SC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1)C | C21H17NOS
